US08071584B2
Ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate
TMSOTf (1.4 mL, 7.7 mmol) was added dropwise to a solution of tetrahydro-4H-thiopyran-4-one (0.88 g, 7.6 mmol) in DCM (80 mL) in the presence of molecular sieves at 0° C. (bath temp). A solution of ethyl 5-bromo-1H-indole-7-carboxylate (2 g, 7.4 mmol). in DCM (20 mL) was added and the reaction was stirred for 15 min. Triethylsilane (2 mL, 12.5 mmol) was added and the reaction was allowed to warm to room temperature overnight. Saturated aqueous Na2CO3 was added, the layers separated and the aqueous layer extracted with DCM. The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. The residue was washed with MeOH and dried in a vacuum oven, giving 2.07 g (76%) of the title compound.

reactant | TMSOTf | 7.7 mmol, 1.4 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | tetrahydro-4H-thiopyran-4-one | 7.6 mmol, 0.88 g | S1CCC(CC1)=O | C5H8OS
reactant | ethyl 5-bromo-1H-indole-7-carboxylate | 7.4 mmol, 2 g | BrC=1C=C2C=CNC2=C(C1)C(=O)OCC | C11H10BrNO2
reactant | Triethylsilane | 12.5 mmol, 2 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 2.07 g, 76% | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CCSCC1 | C16H18BrNO2S
